US07531558B2
4-(4-Chlorophenyl)-N-(2-methylbenzothiazol-5-yl)cyclohexane-1-carboxamide
A suspension of 4-(4-chlorophenyl)-cyclohexane-1-carboxylic acid (100 mg, 0.42 mmol) in DCM (10 ml) was treated with catalytic DMF and oxalyl chloride (110 ul, 1.26 mmol) at 0° C. and the mixture was then stirred at room temp. for 1 h and at 45° C. for 2 h. The solvent and excess oxalyl chloride was removed in vacuo and the residue resuspended in DCM (5 ml). To this was added pyridine (35 ul, 0.42 mmol) and 5-amino-2-methylbenzothiazole (63 mg, 0.38 mmol) and the reaction stirred at room temp. overnight. MeOH (1 ml) was added and the mixture was washed with sat. aq. sodium bicarbonate solution and brine then dried (MgSO4) and concentrated to give the title compound as an off-white solid (148 mg). 1H NMR (400 MHz, DMSO) δ (ppm): 8.37 (d, 1H), 7.96 (d, 1H), 7.63 (dd, 1H), 7.40 (d, 2H), 7.38 (d, 2H), 2.83 (s, 3H), 2.49-2.63 (m, 2H), 2.04 (m, 2H), 1.94 (m, 2H), 1.69 (m, 2H), 1.53 (m, 2H). MS(ES): MH+ 385/387, M−H+ 383/385.

reactant | 4-(4-chlorophenyl)-cyclohexane-1-carboxylic acid | 0.42 mmol, 100 mg | ClC1=CC=C(C=C1)C1CCC(CC1)C(=O)O | C13H15ClO2
reactant | oxalyl chloride | 1.26 mmol, 110 ul | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyridine | 0.42 mmol, 35 ul | N1=CC=CC=C1 | C5H5N
reactant | 5-amino-2-methylbenzothiazole | 0.38 mmol, 63 mg | NC=1C=CC2=C(N=C(S2)C)C1 | C8H8N2S
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 1 ml | CO | CH4O
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(4-Chlorophenyl)-N-(2-methylbenzothiazol-5-yl)cyclohexane-1-carboxamide | 148 mg | ClC1=CC=C(C=C1)C1CCC(CC1)C(=O)NC=1C=CC2=C(N=C(S2)C)C1 | C21H21ClN2OS
